US07622504B2
A 175 mg (0.738 mmol) sample of the above 3-hydroxy-2-(3-phenoxyphenyl)propanenitrile was acylated with acetic anhydride (74 μL) in acetonitrile (300 μL) using the procedure described in Example 5 to give 147 mg (86% yield) of 3-acetoxy-2-(3-phenoxyphenyl)propanenitrile as a colorless oil.

reactant | 3-hydroxy-2-(3-phenoxyphenyl)propanenitrile | OCC(C#N)C1=CC(=CC=C1)OC1=CC=CC=C1 | C15H13NO2
reactant | acetic anhydride | 74 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetonitrile | 300 μL | C(C)#N | C2H3N
product | 3-acetoxy-2-(3-phenoxyphenyl)propanenitrile | 147 mg, 86% yield | C(C)(=O)OCC(C#N)C1=CC(=CC=C1)OC1=CC=CC=C1 | C17H15NO3
